US07618985B2
A 1 M solution of boron tribromide (2.9 ml, 2.91 mmol) was added dropwise to a stirred suspension of 6-methoxy-7-methyl-2H-isoquinolin-1-one (100 mg, 0.53 mmol) in 1 ml of dichloromethane at 0-4° C. (ice bath). After stirring for 1 day at ambient temperature the reaction mixture was poured into ice and the pH was adjusted to 9 by adding concentrated aqueous ammonia. The precipitated material was collected by filtration, washed with water, and dried in vacuo to give 6-Hydroxy-7-methyl-2H-isoquinolin-1-one (51 mg, 55%), El-MS: 176.6 [M+H]+

reactant | boron tribromide | 2.91 mmol, 2.9 ml | B(Br)(Br)Br | BBr3
reactant | 6-methoxy-7-methyl-2H-isoquinolin-1-one | 0.53 mmol, 100 mg | COC=1C=C2C=CNC(C2=CC1C)=O | C11H11NO2
reactant | ammonia | N | H3N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 6-Hydroxy-7-methyl-2H-isoquinolin-1-one | 51 mg, 55% | OC=1C=C2C=CNC(C2=CC1C)=O | C10H9NO2
